US04914120
Butyl lithium (2.4M, 11 ml) in hexane was added over a period of 5 minutes to a solution of diethyl 4-bromophenyl-ethoxymethylphosphonate (10.11 g, 30 mmol) in tetrahydrofuran (150 ml) at 78° C. under an atmosphere of nitrogen. After 10 minutes stirring, a solution of N-methyl 5-imidazolecarboxaldehyde (2.2 g) in tetrahydrofuran (80 ml) was added and the reaction mixture was allowed to warm slowly to room temperature. Water (200 ml) and concentrated hydrochloric acid (25 ml) were added and the reaction mixture was refluxed for 4 hours and then cooled to room temperature. The reaction mixture was then neutralised with anhydrous sodium carbonate and the tetrahydrofuran evaporated. The residue was extracted with ethyl acetate (3×300 ml) and the combined organic extract was then washed with saturated sodium chloride solution, dried and concentrated by evaporating off the solvent. Flash chromatography of the residue on silica gel using 9:1 chloroform:methanol as eluant gave 4-bromophenyl 1-methyl-5-imidazolylmethyl ketone (4.9 g) as a white solid, m.pt. 109° C.

reactant | Butyl lithium | 2.4M, 11 ml | C(CCC)[Li]
reactant | diethyl 4-bromophenyl-ethoxymethylphosphonate | 30 mmol, 10.11 g | BrC1=CC=C(C=C1)C(OCC)P(OCC)(OCC)=O | C13H20BrO4P
reactant | N-methyl 5-imidazolecarboxaldehyde | 2.2 g | CN1C=NC=C1C=O | C5H6N2O
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | Water | 200 ml | O | H2O
product | 4-bromophenyl 1-methyl-5-imidazolylmethyl ketone | 4.9 g | CN1C=NC=C1CC(=O)C1=CC=C(C=C1)Br | C12H11BrN2O
